US05990101
(1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-(2-hydroxymethyl-3-methylimidazo[5,1-b]thiazolium-6-yl)methyl-1-methyl-1-carbapen-2-em-3-carboxylate (internal salt)
The same procedure as in Example 1 was repeated except that 135 mg of allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate and 186 mg of 2-hydroxymethyl-3-methylimidazo[5,1-b]thiazole were used, thereby obtaining 9.3 mg of the title compound.

reactant | allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate | 135 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CO)C(=O)OCC=C)C1=O | C18H23NO7
reactant | 2-hydroxymethyl-3-methylimidazo[5,1-b]thiazole | 186 mg | OCC1=C(N2C(S1)=CN=C2)C | C7H8N2OS
product | (1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-(2-hydroxymethyl-3-methylimidazo[5,1-b]thiazolium-6-yl)methyl-1-methyl-1-carbapen-2-em-3-carboxylate | 9.3 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CN2C=[N+]3C(SC(=C3C)CO)=C2)C(=O)[O-])C1=O | C18H21N3O5S
